US08022072B2
To a solution of methylpyrrole-2-carboxylate (1.01 g, 8.07 mmol) in N,N-dimethylformamide (12 ml) were added 1-bromohexane (1.36 ml, 9.69 mmol) and potassium carbonate (1.474 g, 10.7 mmol), and the mixture was stirred at 80° C. for 20 hr. Ethyl acetate was added to the reaction mixture, the mixture was washed with water, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give methyl 1-hexylpyrrole-2-carboxylate (0.980 g, 4.68 mmol, yield 58%). This was dissolved in methanol (8 ml), 1N-aqueous sodium hydroxide solution (8 ml) was added at room temperature, and the mixture was stirred at 60° C. for 20 hr. The reaction mixture was concentrated under reduced pressure and neutralized with 1N-aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give a carboxylic acid compound 1-hexylpyrrole-2-carboxylic acid (0.877 g, 4.49 mmol, yield 96%).

reactant | methylpyrrole-2-carboxylate | 8.07 mmol, 1.01 g | COC(=O)C=1NC=CC1 | C6H7NO2
reactant | 1-bromohexane | 9.69 mmol, 1.36 ml | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 10.7 mmol, 1.474 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | methyl 1-hexylpyrrole-2-carboxylate | 4.68 mmol, 0.980 g, yield 58% | C(CCCCC)N1C(=CC=C1)C(=O)OC | C12H19NO2
